US06211177B1
A mixture of 3-nitro-4-phenylacetylamino-ethylbenzoate (3.60 g), ethanol (47 ml), acetic acid (23 ml) and reduced iron (6.4 g) is refluxed for four hours. Solids are separated through filtration and the filtrate is concentrated. Ethanol (50 ml) and 35% hydrochloric acid (5 g) are added to the residue and the solution is refluxed for 40 hours. The solution is neutralized with sodium bicarbonate and chloroform extraction is performed. The organic layer is concentrated under reduced pressure and then purified using silica gel column chromatography. Thus, 2-benzyl-5-ethoxycarbonylbenzimidazole (2.30 g) is obtained. 1H-NMR (CDCl3, δ): 1.39 (3H, t, J=7.1 Hz), 4.26 (2H, s), 4.37 (2H, q, J=7.1 Hz), 7.22-7.36 (5H, m), 7.50 (1H, d, J=8.6 Hz), 7.94 (1H, dd, J=1.5 and 8.6 Hz), 8.23 (1H, d, J=1.3 Hz).

reactant | 3-nitro-4-phenylacetylamino-ethylbenzoate | 3.60 g | [N+](=O)([O-])C=1C(=C(C(=O)[O-])C=CC1NC(CC1=CC=CC=C1)=O)CC
reactant | ethanol | 47 ml | C(C)O | C2H6O
solvent | acetic acid | 23 ml | C(C)(=O)O | C2H4O2
product | 2-benzyl-5-ethoxycarbonylbenzimidazole | 2.30 g | C(C1=CC=CC=C1)C=1NC2=C(N1)C=CC(=C2)C(=O)OCC | C17H16N2O2
